US07846929B2
2-chloro-4-morpholinothieno[2,3-d]pyrimidine (300 mg) was reacted with acetaldehyde via General Procedure D to give 1-(2-chloro-4-morpholinothieno[2,3-d]pyrimidin-6-yl)ethanol. This crude intermediate was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)1H-indazole 7 via General Procedure A to yield 100.2 mg of 308 following reverse phase HPLC purification. MS (Q1) 382.1 (M)+

reactant | 2-chloro-4-morpholinothieno[2,3-d]pyrimidine | 300 mg | ClC=1N=C(C2=C(N1)SC=C2)N2CCOCC2 | C10H10ClN3OS
reactant | acetaldehyde | C(C)=O | C2H4O
product | 1-(2-chloro-4-morpholinothieno[2,3-d]pyrimidin-6-yl)ethanol | ClC=1N=C(C2=C(N1)SC(=C2)C(C)O)N2CCOCC2 | C12H14ClN3O2S
